US06964961B2
B. 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide
The title compound was prepared from 2-methyl-1H-indol-5-ylamine and 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide by a procedure analogous to Example 1C. MS: 428 (MH+), HPLC Rf: 4.33 min; HPLC purity 99%.

reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | N1=C(C=CC=C1)CCNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C15H12ClN3OS
product | 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | N1=C(C=CC=C1)CCNC(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C24H21N5OS
